data/oMe_Silver.jsonl
{"reaction_id": "NR-116_1-C(F)(F)F_2-c1ccccc1_3-C(C)(C)C_4-CC","name": "Japp-Klingemann Reaction","level": "medium","reactants_smiles": ["C(=O)(C(F)(F)F)C(c1ccccc1)C(=O)OC(C)(C)C","N#[N+]CC"],"products_smiles": ["C(=O)(OC(C)(C)C)C(=N[NH]CC)c1ccccc1"],"conditions": "[OH-]","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(=C(C(=O)OC(C)(C)C)c1ccccc1)C(F)(F)F","rationale": "Strong base deprotonates the acidic α-proton between carbonyls due to resonance stabilization of the resulting enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=O)OC(C)(C)C)(C(=O)C(F)(F)F)(N=NCC)c1ccccc1","rationale": "The nucleophilic enolate carbon attacks the electrophilic diazonium nitrogen, driven by the strong electrophilicity of the diazonium group."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OC(C)(C)C)(C(O)([O-])(C(F)(F)F))(N=NCC)c1ccccc1","rationale": "Electrophilic addition of hydroxide to the carbonyl occurs due to increased electrophilicity from adjacent electron-withdrawing groups."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(=O)(OC(C)(C)C)C(=N[N-]CC)c1ccccc1","rationale": "Heterolytic cleavage occurs as the leaving group departs, stabilized by resonance in the resulting imine-like intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(OC(C)(C)C)C(=N[NH]CC)c1ccccc1","rationale": "Proton transfer under basic conditions neutralizes the anionic nitrogen, yielding the stable hydrazone product."}],"description": "Under basic conditions, the α-proton of the β-keto acid is deprotonated to form an enolate, which nucleophilically attacks the diazonium species. Subsequent rearrangements and cleavages yield the hydrazone product, stabilized by conjugation with the carbonyl group."}
{"reaction_id": "NG-008_1-C_2-c1ccc(OC)cc1_3-c1c(Cl)cc(Cl)cc1","name": "Baeyer-Villiger oxidation","level": "easy","reactants_smiles": ["C(C)(=O)(c1ccc(OC)cc1)","C(c1c(Cl)cc(Cl)cc1)(=O)OO"],"products_smiles": ["C(C)(=O)Oc1ccc(OC)cc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(=[OH+])c1ccc(OC)cc1","rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack by the peracid."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)([OH])(OOC(=O)c1c(Cl)cc(Cl)cc1)c1ccc(OC)cc1","rationale": "The peracid oxygen acts as a nucleophile, attacking the activated carbonyl carbon; acid catalysis stabilizes the tetrahedral intermediate through protonation of the carbonyl."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(C)(=[OH+])Oc1ccc(OC)cc1","rationale": "A 1,2-shift occurs from the more migratory c1ccc(OC)cc1 group to the adjacent oxygen, driven by stabilization of the developing carbocation and relief of positive charge on the leaving group."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(=O)Oc1ccc(OC)cc1","rationale": "Deprotonation restores neutrality, yielding the ester product; the acidic medium facilitates proton transfers to complete the catalytic cycle."}],"description": "Under acidic conditions, the carbonyl is activated toward nucleophilic attack by protonation, allowing the peracid to add. A 1,2-shift then occurs, driven by stabilization of the developing positive charge, yielding the ester after deprotonation."}
